### PR TITLE
[Merged by Bors] - refactor: definition and notation for `EventuallyEq` on `Set`

### PR DESCRIPTION
**Pull request by YaelDillies**
Introduce definitions `EventuallyEqSet`, `EventuallySubset` as the `Set` versions of `EventuallyEq` and `EventuallyLE`. Make the notations `x =ᶠ[l] y`, `x ≤ᶠ[l] y`  `x =ᵐ[μ] y`. elaborate to either the `Set` or functiion version depending on the expected type of the argument.

In mathlib, we currently use the function predicates for sets, which abuses the `Set α := α → Prop` defeq and which will break once we make `Set` a one-field structure.

Generated by Claude Opus, reviewed line by line by myself, with a large amount of manual edits and further Claude prompting to polish the angles.

Assisted-by: Claude Opus 4.8

---

~~Note that some simp lemmas aren't in simp normal form anymore because `(· ∈ someSetConstruction)` simplifies already. We might want to make the above into actual definitions instead of notation to avoid this.~~ EDIT: I have done so

We will want to do the same for `EventuallyConst`, but it is more subtle since it doesn't have notation we could hide the difference in, and I do not know what the correct name for the `Set` definition would be. EDIT: See #43114

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by SnirBroshi** [comment]
[#mathlib4 > defeq abuse of &#96;Set X = X -&gt; Prop&#96; with &#96;EventuallyEq&#96;](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/defeq.20abuse.20of.20.60Set.20X.20.3D.20X.20-.3E.20Prop.60.20with.20.60EventuallyEq.60/with/577936807)

**Comment by themathqueen** [comment]
Why not use `≤ᶠˢ` instead of `⊆ᶠ` to match the rest?

**Comment by YaelDillies** [comment]
I have reworked the PR to not introduce new notation. WDYT?

**Comment by themathqueen** [comment]
So nothing really changes, right?

Should we add a `meta` label since the stuff you're introducing seems that way?

**Comment by YaelDillies** [comment]
Indeed, nothing really changes.

I have now checked that all lemmas that should be renamed have been renamed, that no unnecessary diff is left and that I am happy with each line of change.

File: Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean [hunk 1]
```diff
@@ -541,10 +541,11 @@ theorem volume_regionBetween_eq_lintegral [SFinite μ] (hf : AEMeasurable f (μ.
       (μ.restrict s).prod volume
         (regionBetween (AEMeasurable.mk f hf) (AEMeasurable.mk g hg) s) := by
     apply measure_congr
-    apply EventuallyEq.rfl.inter
-    exact
-      ((quasiMeasurePreserving_fst.ae_eq_comp hf.ae_eq_mk).comp₂ _ EventuallyEq.rfl).inter
-        (EventuallyEq.rfl.comp₂ _ <| quasiMeasurePreserving_fst.ae_eq_comp hg.ae_eq_mk)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean:543]: Should there be a version of `EventuallyEq.comp₂` where the outside function is set-valued?

File: Mathlib/MeasureTheory/Measure/NullMeasurable.lean [hunk 2]
```diff
@@ -201,7 +201,9 @@ theorem exists_measurable_superset_ae_eq (h : NullMeasurableSet s μ) :
   rcases h with ⟨t, htm, hst⟩
   refine ⟨t ∪ toMeasurable μ (s \ t), ?_, htm.union (measurableSet_toMeasurable _ _), ?_⟩
   · exact sdiff_subset_iff.1 (subset_toMeasurable _ _)
-  · have : toMeasurable μ (s \ t) =ᵐ[μ] (∅ : Set α) := by simp [ae_le_set.1 hst.le]
+  · have : toMeasurable μ (s \ t) =ᵐ[μ] ∅ := by
+      rw [ae_eq_empty, measure_toMeasurable]
+      exact ae_le_set.1 hst.le
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/NullMeasurable.lean]: The original proof still works:
```suggestion
  · have : toMeasurable μ (s \ t) =ᵐ[μ] ∅ := by simp [ae_le_set.1 hst.le]
```

File: Mathlib/Order/Filter/Basic.lean [hunk 3]
```diff
@@ -1204,39 +1253,79 @@ theorem Eventually.lt_top_iff_ne_top [PartialOrder β] [OrderTop β] {l : Filter
...
     simp only [le_inf_iff, inf_le_left, true_and, le_principal_iff]
 
+@[deprecated (since := "2026-07-23")]
+alias set_eventuallyLE_iff_inf_principal_le := eventuallySubset_iff_inf_principal_le
+
+instance {l : Filter α} :
+    Trans ((· ≤ᶠ[l] ·) : Set α → Set α → Prop) (· ≤ᶠ[l] ·) (· ≤ᶠ[l] ·) where
+  trans := EventuallySubset.trans
+
+theorem eventuallyEqSet_antisymm_iff {s t : Set α} {l : Filter α} :
```
Comment (EtienneC30) [inline Mathlib/Order/Filter/Basic.lean]: I would expect this name, similarly to [Filter.eventuallyLE_antisymm_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Basic.html#Filter.eventuallyLE_antisymm_iff):
```suggestion
theorem eventuallySubset_antisymm_iff {s t : Set α} {l : Filter α} :
```

File: Mathlib/MeasureTheory/OuterMeasure/AE.lean [hunk 4]
```diff
@@ -137,46 +188,47 @@ theorem ae_le_of_ae_lt {β : Type*} [Preorder β] {f g : α → β} (h : ∀ᵐ
...
+    s ∪ s' ≤ᵐ[μ] t ∪ t' :=
   h.union h'
 
 set_option backward.isDefEq.respectTransparency false in
-theorem union_ae_eq_right : (s ∪ t : Set α) =ᵐ[μ] t ↔ μ (s \ t) = 0 := by
-  simp [eventuallyLE_antisymm_iff, ae_le_set, union_sdiff_right,
-    sdiff_eq_empty.2 Set.subset_union_right]
+theorem union_ae_eq_right : s ∪ t =ᵐ[μ] t ↔ μ (s \ t) = 0 := by
+  rw [eventuallyEqSet_antisymm_iff, ae_le_set, ae_le_set, union_sdiff_right,
+    sdiff_eq_empty.2 Set.subset_union_right, and_iff_left measure_empty]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/OuterMeasure/AE.lean]: The original proof works:
```suggestion
  simp [eventuallyEqSet_antisymm_iff, ae_le_set, union_sdiff_right,
    sdiff_eq_empty.2 Set.subset_union_right]
```

File: Mathlib/MeasureTheory/OuterMeasure/AE.lean [hunk 5]
```diff
@@ -137,46 +188,47 @@ theorem ae_le_of_ae_lt {β : Type*} [Preorder β] {f g : α → β} (h : ∀ᵐ
...
 
 set_option backward.isDefEq.respectTransparency false in
-theorem sdiff_ae_eq_self : (s \ t : Set α) =ᵐ[μ] s ↔ μ (s ∩ t) = 0 := by
-  simp [eventuallyLE_antisymm_iff, ae_le_set]
+theorem sdiff_ae_eq_self : s \ t =ᵐ[μ] s ↔ μ (s ∩ t) = 0 := by
+  rw [eventuallyEqSet_antisymm_iff, ae_le_set, ae_le_set, Set.sdiff_sdiff_right_self,
+    sdiff_eq_empty.2 sdiff_le, and_iff_right measure_empty]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/OuterMeasure/AE.lean]: same
```suggestion
  simp [eventuallyEqSet_antisymm_iff, ae_le_set]
```

File: Mathlib/Topology/NhdsWithin.lean [hunk 6]
```diff
@@ -308,12 +314,12 @@ theorem nhdsWithin_prod [TopologicalSpace β]
   rw [nhdsWithin_prod_eq]
   exact prod_mem_prod hu hv
 
-lemma Filter.EventuallyEq.mem_interior {x : α} {s t : Set α} (hst : s =ᶠ[𝓝 x] t)
```
Comment (EtienneC30) [inline Mathlib/Topology/NhdsWithin.lean:311]: missing deprecation

File: Mathlib/Topology/NhdsWithin.lean [hunk 7]
```diff
@@ -308,12 +314,12 @@ theorem nhdsWithin_prod [TopologicalSpace β]
...
+lemma Filter.EventuallyEqSet.mem_interior {x : α} {s t : Set α} (hst : s =ᶠ[𝓝 x] t)
     (h : x ∈ interior s) : x ∈ interior t := by
-  rw [← nhdsWithin_eq_iff_eventuallyEq] at hst
+  rw [← nhdsWithin_eq_iff_eventuallyEqSet] at hst
   simpa [mem_interior_iff_mem_nhds, ← nhdsWithin_eq_nhds, hst] using h
 
-lemma Filter.EventuallyEq.mem_interior_iff {x : α} {s t : Set α} (hst : s =ᶠ[𝓝 x] t) :
```
Comment (EtienneC30) [inline Mathlib/Topology/NhdsWithin.lean:316]: missing deprecation

File: Mathlib/Order/Filter/Finite.lean [hunk 8]
```diff
@@ -296,69 +296,90 @@ variable {l : Filter α} {f g : α → β}
...
+lemma _root_.Finset.eventuallySubset_iUnion {ι : Type*} (s : Finset ι) {f g : ι → Set α}
     (hle : ∀ i ∈ s, f i ≤ᶠ[l] g i) : (⋃ i ∈ s, f i) ≤ᶠ[l] (⋃ i ∈ s, g i) :=
   .biUnion s.finite_toSet hle
 
-lemma _root_.Finset.eventuallyEq_iUnion {ι : Type*} (s : Finset ι) {f g : ι → Set α}
+lemma _root_.Finset.eventuallyEqSet_iUnion {ι : Type*} (s : Finset ι) {f g : ι → Set α}
     (heq : ∀ i ∈ s, f i =ᶠ[l] g i) : (⋃ i ∈ s, f i) =ᶠ[l] (⋃ i ∈ s, g i) :=
   .biUnion s.finite_toSet heq
 
-lemma _root_.Finset.eventuallyLE_iInter {ι : Type*} (s : Finset ι) {f g : ι → Set α}
```
Comment (EtienneC30) [inline Mathlib/Order/Filter/Finite.lean:352]: missing deprecation

File: Mathlib/Order/Filter/Finite.lean [hunk 9]
```diff
@@ -296,69 +296,90 @@ variable {l : Filter α} {f g : α → β}
...
     (h : ∀ i, s i ≤ᶠ[l] t i) : (⋂ i, s i) ≤ᶠ[l] ⋂ i, t i :=
   (eventually_all.2 h).mono fun _x hx hx' ↦ mem_iInter.2 fun i ↦ hx i (mem_iInter.1 hx' i)
 
-protected lemma EventuallyEq.iInter [Finite ι] {s t : ι → Set α}
+protected lemma EventuallyEqSet.iInter [Finite ι] {s t : ι → Set α}
     (h : ∀ i, s i =ᶠ[l] t i) : (⋂ i, s i) =ᶠ[l] ⋂ i, t i :=
-  (EventuallyLE.iInter fun i ↦ (h i).le).antisymm <| .iInter fun i ↦ (h i).symm.le
+  (EventuallySubset.iInter fun i ↦ (h i).subset).antisymm <| .iInter fun i ↦ (h i).symm.subset
 
-lemma _root_.Set.Finite.eventuallyLE_iUnion {ι : Type*} {s : Set ι} (hs : s.Finite)
```
Comment (EtienneC30) [inline Mathlib/Order/Filter/Finite.lean:314]: missing deprecation

File: Mathlib/Order/Filter/Finite.lean [hunk 10]
```diff
@@ -296,69 +296,90 @@ variable {l : Filter α} {f g : α → β}
...
+  (EventuallySubset.biInter hs fun i hi ↦ (heq i hi).subset).antisymm <|
+    .biInter hs fun i hi ↦ (heq i hi).symm.subset
+
+alias EventuallyEqSet.biInter := Set.Finite.eventuallyEqSet_iInter
 
-alias EventuallyEq.biInter := Set.Finite.eventuallyEq_iInter
+@[deprecated (since := "2026-07-23")]
+alias _root_.Set.Finite.eventuallyEq_iInter := Set.Finite.eventuallyEqSet_iInter
 
-lemma _root_.Finset.eventuallyLE_iUnion {ι : Type*} (s : Finset ι) {f g : ι → Set α}
```
Comment (EtienneC30) [inline Mathlib/Order/Filter/Finite.lean:344]: missing deprecation

**Review by EtienneC30 — COMMENTED** [review]
Thanks! It is very nice to see all those `change` and type annotations removed. I expect there are several `set_option backward.isDefEq.respectTransparency false in` that could be removed, but maybe you want to leave this for now. I went through all the files but I cannot comment on the meta code.

File: Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean:543]: It might be the heat, but I can't make sense of this suggestion

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean:543]: It's my bad the suggestion does not make sense. I was wondering whether there was a way to mimick the original proof but it relies heavily on sets being functions so I don't think it's really possible.

**Review by mcdoll — COMMENTED** [review]
Except for the meta-code at `Mathlib/Order/Filter/Defs.lean`, which I don't feel qualified judging, I think everything looks good (and thank you very much for doing this).
Would be good if someone with metaprogramming knowledge has a look
maintainer merge?

**Comment by ADedecker** [comment]
I am sincerely sorry for not putting this higher in my priority list. I think it is more than time we fix this, so thanks a lot for the work.

That said, I am not convinced about using the same notation for two notions which we are purposefully distinguishing... The version with two notations seems safer to me. Would you want to discuss this via Zoom sometime this week?

**Comment by ADedecker** [comment]
Do we ever use `EventuallyConst` with sets? If yes, then I think we can live with using the membership predicate there instead.

File: Mathlib/Analysis/Calculus/ContDiff/Operations.lean [hunk 11]
```diff
@@ -212,7 +212,7 @@ The iterated derivative of the sum of two functions is the sum of the iterated d
   have hgt : ContDiffOn 𝕜 i g (s ∩ t) := fun a ha ↦ (h (by simp_all)).2.mono inter_subset_left
   have hut : UniqueDiffOn 𝕜 (s ∩ t) := hu.inter ht
   have H : ↑(s ∩ t) =ᶠ[𝓝 x] s :=
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/ContDiff/Operations.lean]:
```suggestion
  have H : s ∩ t =ᶠ[𝓝 x] s :=
```

File: Mathlib/MeasureTheory/Group/Action.lean [hunk 12]
```diff
@@ -84,7 +84,8 @@ theorem measure_preimage_smul_of_nullMeasurableSet (hs : NullMeasurableSet s μ)
     μ ((c • ·) ⁻¹' s) = μ s := by
   rw [← measure_toMeasurable s,
     ← SMulInvariantMeasure.measure_preimage_smul c (measurableSet_toMeasurable μ s)]
-  exact measure_congr (tendsto_smul_ae μ c hs.toMeasurable_ae_eq) |>.symm
+  exact measure_congr (s := (c • ·) ⁻¹' toMeasurable μ s) (t := (c • ·) ⁻¹' s)
+    (tendsto_smul_ae μ c hs.toMeasurable_ae_eq) |>.symm
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Group/Action.lean]:
```suggestion
  exact measure_congr (tendsto_smul_ae μ c hs.toMeasurable_ae_eq) |>.symm
```

File: Mathlib/MeasureTheory/Measure/Basic.lean [hunk 13]
```diff
@@ -359,7 +359,7 @@ theorem measure_iUnion_congr_of_subset {ι : Sort*} [Countable ι] {s : ι → S
   calc
     μ (⋃ b, t b) ≤ μ (⋃ b, M (t b)) := measure_mono (iUnion_mono fun b => subset_toMeasurable _ _)
     _ = μ (⋃ b, M (t b) ∩ M (⋃ b, s b)) :=
-      measure_congr (Filter.EventuallyEq.countable_iUnion H).symm
+      measure_congr (.symm <| .countable_iUnion H)
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/Basic.lean]: Pure nit:
```suggestion
      measure_congr <| .symm <| .countable_iUnion H
```

File: Mathlib/MeasureTheory/OuterMeasure/AE.lean [hunk 14]
```diff
@@ -62,17 +62,68 @@ i.e. `p` holds on a set of positive measure.
...
+/-- Delaborator printing `Filter.EventuallyEq (MeasureTheory.ae μ) f g` as `f =ᵐ[μ] g`. -/
+@[app_delab Filter.EventuallyEq]
+meta def delabAEEventuallyEq : Delab := whenPPOption Lean.getPPNotation do
+  let e ← SubExpr.getExpr
+  guard <| e.isAppOfArity ``Filter.EventuallyEq 5
+  guard <| (e.getArg! 2).isAppOfArity ``MeasureTheory.ae 5
+  let μ ← SubExpr.withNaryArg 2 <| SubExpr.withNaryArg 4 delab
+  let f ← SubExpr.withNaryArg 3 delab
+  let g ← SubExpr.withNaryArg 4 delab
+  `($f =ᵐ[$μ] $g)
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/OuterMeasure/AE.lean]:
```suggestion
meta def delabAEEventuallyEq : Delab :=
  whenNotPPOption getPPExplicit <| whenPPOption Lean.getPPNotation do
    let e ← SubExpr.getExpr
    guard <| e.isAppOfArity ``Filter.EventuallyEq 5
    guard <| (e.getArg! 2).isAppOfArity ``MeasureTheory.ae 5
    let μ ← SubExpr.withNaryArg 2 <| SubExpr.withNaryArg 4 delab
    let f ← SubExpr.withNaryArg 3 delab
    let g ← SubExpr.withNaryArg 4 delab
    `($f =ᵐ[$μ] $g)
```
And same for the other delaborators

File: Mathlib/MeasureTheory/OuterMeasure/AE.lean [hunk 15]
```diff
@@ -62,17 +62,68 @@ i.e. `p` holds on a set of positive measure.
...
+
+/-- Delaborator printing `Filter.EventuallySubset (MeasureTheory.ae μ) s t` as `s ≤ᵐ[μ] t`. -/
+@[app_delab Filter.EventuallySubset]
+meta def delabAEEventuallySubset : Delab := whenPPOption Lean.getPPNotation do
+  let e ← SubExpr.getExpr
+  guard <| e.isAppOfArity ``Filter.EventuallySubset 4
+  guard <| (e.getArg! 1).isAppOfArity ``MeasureTheory.ae 5
+  let s ← SubExpr.withNaryArg 2 delab
+  let t ← SubExpr.withNaryArg 3 delab
+  let μ ← SubExpr.withNaryArg 1 <| SubExpr.withNaryArg 4 delab
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/OuterMeasure/AE.lean]:
```suggestion
  let μ ← SubExpr.withNaryArg 1 <| SubExpr.withNaryArg 4 delab
  let s ← SubExpr.withNaryArg 2 delab
  let t ← SubExpr.withNaryArg 3 delab
```
(nit)

File: Mathlib/MeasureTheory/OuterMeasure/AE.lean [hunk 16]
```diff
@@ -139,46 +190,46 @@ theorem ae_le_of_ae_lt {β : Type*} [Preorder β] {f g : α → β} (h : ∀ᵐ
...
-    (s ∩ s' : Set α) ≤ᵐ[μ] (t ∩ t' : Set α) :=
+    s ∩ s' ≤ᵐ[μ] t ∩ t' :=
   h.inter h'
 
 theorem ae_le_set_union {s' t' : Set α} (h : s ≤ᵐ[μ] t) (h' : s' ≤ᵐ[μ] t') :
-    (s ∪ s' : Set α) ≤ᵐ[μ] (t ∪ t' : Set α) :=
+    s ∪ s' ≤ᵐ[μ] t ∪ t' :=
   h.union h'
 
 set_option backward.isDefEq.respectTransparency false in
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/OuterMeasure/AE.lean]:
```suggestion
```

File: Mathlib/MeasureTheory/OuterMeasure/AE.lean [hunk 17]
```diff
@@ -139,46 +190,46 @@ theorem ae_le_of_ae_lt {β : Type*} [Preorder β] {f g : α → β} (h : ∀ᵐ
...
-theorem union_ae_eq_right : (s ∪ t : Set α) =ᵐ[μ] t ↔ μ (s \ t) = 0 := by
-  simp [eventuallyLE_antisymm_iff, ae_le_set, union_sdiff_right,
+theorem union_ae_eq_right : s ∪ t =ᵐ[μ] t ↔ μ (s \ t) = 0 := by
+  simp [eventuallySubset_antisymm_iff, ae_le_set, union_sdiff_right,
     sdiff_eq_empty.2 Set.subset_union_right]
 
 set_option backward.isDefEq.respectTransparency false in
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/OuterMeasure/AE.lean]:
```suggestion
```

File: Mathlib/MeasureTheory/OuterMeasure/AE.lean [hunk 18]
```diff
@@ -139,46 +190,46 @@ theorem ae_le_of_ae_lt {β : Type*} [Preorder β] {f g : α → β} (h : ∀ᵐ
...
 
 @[deprecated (since := "2026-06-03")] alias diff_ae_eq_self := sdiff_ae_eq_self
 
-theorem sdiff_null_ae_eq_self (ht : μ t = 0) : (s \ t : Set α) =ᵐ[μ] s :=
+theorem sdiff_null_ae_eq_self (ht : μ t = 0) : s \ t =ᵐ[μ] s :=
   sdiff_ae_eq_self.mpr (measure_mono_null inter_subset_right ht)
 
 @[deprecated (since := "2026-06-03")] alias diff_null_ae_eq_self := sdiff_null_ae_eq_self
 
 set_option backward.isDefEq.respectTransparency false in
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/OuterMeasure/AE.lean]:
```suggestion
```

Comment (ADedecker) [reply Mathlib/MeasureTheory/OuterMeasure/AE.lean]: Same for every occurence in this file, except `Set.mulIndicator_ae_eq_one`.

File: Mathlib/MeasureTheory/OuterMeasure/AE.lean [hunk 19]
```diff
@@ -214,47 +265,40 @@ theorem ae_eq_set_symmDiff {s' t' : Set α} (h : s =ᵐ[μ] t) (h' : s' =ᵐ[μ]
   h.symmDiff h'
 
 set_option backward.isDefEq.respectTransparency false in
-theorem union_ae_eq_univ_of_ae_eq_univ_left (h : s =ᵐ[μ] univ) : (s ∪ t : Set α) =ᵐ[μ] univ :=
-  (ae_eq_set_union h (ae_eq_refl t)).trans <| by rw [univ_union]
+theorem union_ae_eq_univ_of_ae_eq_univ_left (h : s =ᵐ[μ] univ) : s ∪ t =ᵐ[μ] univ :=
+  (ae_eq_set_union h EventuallyEq.rfl).trans <| by rw [univ_union]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/OuterMeasure/AE.lean]:
```suggestion
  (ae_eq_set_union h .rfl).trans <| by rw [univ_union]
```
Semantically those are really `EventuallyEqSet.rfl`.

Comment (ADedecker) [reply Mathlib/MeasureTheory/OuterMeasure/AE.lean]: Same for all the variations.

File: Mathlib/Order/Filter/Basic.lean [hunk 20]
```diff
@@ -932,14 +932,18 @@ theorem EventuallyEq.rw {l : Filter α} {f g : α → β} (h : f =ᶠ[l] g) (p :
     (hf : ∀ᶠ x in l, p x (f x)) : ∀ᶠ x in l, p x (g x) :=
   hf.congr <| h.mono fun _ hx => hx ▸ Iff.rfl
 
-theorem eventuallyEq_set {s t : Set α} {l : Filter α} : s =ᶠ[l] t ↔ ∀ᶠ x in l, x ∈ s ↔ x ∈ t :=
+theorem eventuallyEqSet_iff {s t : Set α} {l : Filter α} : s =ᶠ[l] t ↔ ∀ᶠ x in l, x ∈ s ↔ x ∈ t :=
   eventually_congr <| Eventually.of_forall fun _ ↦ eq_iff_iff
 
-alias ⟨EventuallyEq.mem_iff, Eventually.set_eq⟩ := eventuallyEq_set
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Basic.lean:938]: Could you also deprecate the aliases for completeness?

File: Mathlib/Order/Filter/Basic.lean [hunk 21]
```diff
@@ -1057,43 +1061,88 @@ theorem EventuallyEq.inf [Min β] {l : Filter α} {f f' g g' : α → β} (hf :
...
+lemma subset (h : s =ᶠ[l] t) : s ≤ᶠ[l] t := Eventually.mono h fun _ ↦ le_of_eq
+
+lemma superset (h : s =ᶠ[l] t) : t ≤ᶠ[l] s := Eventually.mono h fun _ ↦ ge_of_eq
 
 @[gcongr]
-theorem EventuallyEq.inter {s t s' t' : Set α} {l : Filter α} (h : s =ᶠ[l] t) (h' : s' =ᶠ[l] t') :
-    (s ∩ s' : Set α) =ᶠ[l] (t ∩ t' : Set α) :=
-  h.comp₂ (· ∧ ·) h'
+lemma inter (h : s =ᶠ[l] t) {s' t' : Set α} (h' : s' =ᶠ[l] t') : s ∩ s' =ᶠ[l] t ∩ t' :=
+  EventuallyEq.comp₂ h (· ∧ ·) h'
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Basic.lean]:
```suggestion
  h.comp₂ (· ∧ ·) h'
```

File: Mathlib/Order/Filter/Basic.lean [hunk 22]
```diff
@@ -1057,43 +1061,88 @@ theorem EventuallyEq.inf [Min β] {l : Filter α} {f f' g g' : α → β} (hf :
...
 
 @[gcongr]
-theorem EventuallyEq.union {s t s' t' : Set α} {l : Filter α} (h : s =ᶠ[l] t) (h' : s' =ᶠ[l] t') :
-    (s ∪ s' : Set α) =ᶠ[l] (t ∪ t' : Set α) :=
-  h.comp₂ (· ∨ ·) h'
+lemma union (h : s =ᶠ[l] t) {s' t' : Set α} (h' : s' =ᶠ[l] t') : s ∪ s' =ᶠ[l] t ∪ t' :=
+  EventuallyEq.comp₂ h (· ∨ ·) h'
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Basic.lean]:
```suggestion
  h.comp₂ (· ∨ ·) h'
```

File: Mathlib/Order/Filter/Basic.lean [hunk 23]
```diff
@@ -1057,43 +1061,88 @@ theorem EventuallyEq.inf [Min β] {l : Filter α} {f f' g g' : α → β} (hf :
...
 
 @[gcongr]
-theorem EventuallyEq.compl {s t : Set α} {l : Filter α} (h : s =ᶠ[l] t) :
-    (sᶜ : Set α) =ᶠ[l] (tᶜ : Set α) :=
-  h.fun_comp Not
+lemma compl (h : s =ᶠ[l] t) : sᶜ =ᶠ[l] tᶜ := EventuallyEq.fun_comp h Not
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Basic.lean]:
```suggestion
lemma compl (h : s =ᶠ[l] t) : sᶜ =ᶠ[l] tᶜ := h.fun_comp Not
```

File: Mathlib/Order/Filter/Basic.lean [hunk 24]
```diff
@@ -1057,43 +1061,88 @@ theorem EventuallyEq.inf [Min β] {l : Filter α} {f f' g g' : α → β} (hf :
...
+@[deprecated (since := "2026-08-14")] alias EventuallyEq.union := EventuallyEqSet.union
+@[deprecated (since := "2026-08-14")] alias EventuallyEq.compl := EventuallyEqSet.compl
+@[deprecated (since := "2026-08-14")] alias EventuallyEq.diff := EventuallyEqSet.diff
+@[deprecated (since := "2026-08-14")] alias EventuallyEq.symmDiff := EventuallyEqSet.symmDiff
+
+lemma eventuallyEqSet_comm {s t : Set α} {l : Filter α} : s =ᶠ[l] t ↔ t =ᶠ[l] s :=
+  ⟨.symm, .symm⟩
+
+instance {l : Filter α} : IsTrans (Set α) (· =ᶠ[l] ·) where
+  trans _ _ _ := .trans
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Basic.lean]: Could you move this right after `.trans`?

File: Mathlib/Order/Filter/Basic.lean [hunk 25]
```diff
@@ -1057,43 +1061,88 @@ theorem EventuallyEq.inf [Min β] {l : Filter α} {f f' g g' : α → β} (hf :
...
+
+theorem eventuallyEqSet_empty {s : Set α} {l : Filter α} :
+    s =ᶠ[l] ∅ ↔ ∀ᶠ x in l, x ∉ s := by
+  simp [EventuallyEqSet, EventuallyEq]
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Basic.lean]: Could you move this right after the `univ` version?

File: Mathlib/Order/Filter/Basic.lean [hunk 26]
```diff
@@ -1208,39 +1257,79 @@ theorem Eventually.lt_top_iff_ne_top [PartialOrder β] [OrderTop β] {l : Filter
...
-  set_eventuallyLE_iff_mem_inf_principal.trans <| by
+  eventuallySubset_iff_mem_inf_principal.trans <| by
     simp only [le_inf_iff, inf_le_left, true_and, le_principal_iff]
 
+@[deprecated (since := "2026-08-14")]
+alias set_eventuallyLE_iff_inf_principal_le := eventuallySubset_iff_inf_principal_le
+
+instance {l : Filter α} :
+    Trans ((· ≤ᶠ[l] ·) : Set α → Set α → Prop) (· ≤ᶠ[l] ·) (· ≤ᶠ[l] ·) where
+  trans := EventuallySubset.trans
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Basic.lean]: Same remark, could you move this right after the corresponding `trans` lemma?

File: Mathlib/Order/Filter/Basic.lean [hunk 27]
```diff
@@ -1208,39 +1257,79 @@ theorem Eventually.lt_top_iff_ne_top [PartialOrder β] [OrderTop β] {l : Filter
...
+
+theorem eventuallySubset_antisymm_iff {s t : Set α} {l : Filter α} :
+    s =ᶠ[l] t ↔ s ≤ᶠ[l] t ∧ t ≤ᶠ[l] s :=
+  eventuallyLE_antisymm_iff
+
 set_option backward.isDefEq.respectTransparency false in
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Basic.lean]:
```suggestion
```

File: Mathlib/Order/Filter/Basic.lean [hunk 28]
```diff
@@ -1278,10 +1367,14 @@ theorem Set.EqOn.eventuallyEq_of_mem {α β} {s : Set α} {l : Filter α} {f g :
     (hl : s ∈ l) : f =ᶠ[l] g :=
   h.eventuallyEq.filter_mono <| Filter.le_principal_iff.2 hl
 
-theorem LE.le.eventuallyLE {α} {l : Filter α} {s t : Set α} (h : s ⊆ t) : s ≤ᶠ[l] t :=
-  Filter.Eventually.of_forall h
+lemma LE.le.eventuallySubset {α} {l : Filter α} {s t : Set α} (h : s ⊆ t) : s ≤ᶠ[l] t :=
+  .of_forall h
+
+theorem LE.le.eventuallyLE {α} {l : Filter α} {s t : Set α} (h : s ≤ t) : s ≤ᶠ[l] t :=
+  .of_forall h
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Basic.lean]: This one should be about functions, no?

File: Mathlib/Order/Filter/Basic.lean [hunk 29]
```diff
@@ -1278,10 +1367,14 @@ theorem Set.EqOn.eventuallyEq_of_mem {α β} {s : Set α} {l : Filter α} {f g :
...
 
-@[deprecated (since := "2026-03-16")] alias HasSubset.Subset.eventuallyLE := LE.le.eventuallyLE
+alias Filter.EventuallyLE.of_subset := LE.le.eventuallySubset
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Basic.lean]:
```suggestion
alias Filter.EventuallySubset.of_subset := LE.le.eventuallySubset
```

File: Mathlib/Order/Filter/Defs.lean [hunk 30]
```diff
@@ -297,16 +297,118 @@ notation3 "∃ᶠ "(...)" in "f", "r:(scoped p => Filter.Frequently p f) => r
...
 def EventuallyLE [LE β] (l : Filter α) (f g : α → β) : Prop :=
   ∀ᶠ x in l, f x ≤ g x
 
-@[inherit_doc]
-notation:50 f " ≤ᶠ[" l:50 "] " g:50 => EventuallyLE l f g
+/-- Two sets `s` and `t` are *eventually equal* along a filter `l` if the set of `x` such that
+`x ∈ s ↔ x ∈ t` belongs to `l`.
+
+This is definitionally `(· ∈ s) =ᶠ[l] (· ∈ t)`, but it is a separate definition to avoid simp
+unfolding membership of concrete sets. -/
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Defs.lean]:
```suggestion
This is definitionally `(· ∈ s) =ᶠ[l] (· ∈ t)`, but it is a separate definition (rather than an
abbreviation) to avoid simp unfolding membership of concrete sets. -/
```

File: Mathlib/Order/Filter/Defs.lean [hunk 31]
```diff
@@ -297,16 +297,118 @@ notation3 "∃ᶠ "(...)" in "f", "r:(scoped p => Filter.Frequently p f) => r
...
+def EventuallyEqSet (l : Filter α) (s t : Set α) : Prop :=
+  EventuallyEq l (fun x => x ∈ s) (fun x => x ∈ t)
+
+/-- A set `s` is *eventually contained* in a set `t` along a filter `l` if the set of `x` such that
+`x ∈ s → x ∈ t` belongs to `l`.
+
+This is definitionally `(· ∈ s) ≤ᶠ[l] (· ∈ t)`, but it is a separate definition to avoid simp
+unfolding membership of concrete sets. -/
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Defs.lean]:
```suggestion
This is definitionally `(· ∈ s) ≤ᶠ[l] (· ∈ t)`, but it is a separate definition (rather than an
abbreviation) to avoid simp unfolding membership of concrete sets. -/
```

File: Mathlib/Order/Filter/Defs.lean [hunk 32]
```diff
@@ -297,16 +297,118 @@ notation3 "∃ᶠ "(...)" in "f", "r:(scoped p => Filter.Frequently p f) => r
...
+    let e ← elabTerm e none
+    return (← whnfR (← instantiateMVars (← inferType e)), ← exprToSyntax e)
+  let (tyx, x) ← elabSide x
+  let mut y := y
+  let mut isSet := tyx.isAppOfArity ``Set 1
+  if !isSet && tyx.getAppFn.isMVar then
+    let (tyy, y') ← elabSide y
+    y := y'
+    isSet := tyy.isAppOfArity ``Set 1
+  return (x, y, isSet)
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Defs.lean]:
```suggestion
  if tyx.getAppFn.isMVar then
    let (tyy, y) ← elabSide y
    return (x, y, tyy.isAppOfArity ``Set 1)
  else
    return (x, y, tyx.isAppOfArity ``Set 1)
```
This should do the same, right? In other words, I think the first part of `!isSet && tyx.getAppFn.isMVar` is redundant: if the head function is a metavariable, it can't be `Set`.

Also, I don't know much about all of this, but it seems weird to me that the discrimination is based on wether the name is "Set", and not wether it is actually the definition we think about. Does this take into account the open namespaces?

File: Mathlib/Order/Filter/Defs.lean [hunk 33]
```diff
@@ -297,16 +297,118 @@ notation3 "∃ᶠ "(...)" in "f", "r:(scoped p => Filter.Frequently p f) => r
...
+/-- `quot_precheck` for the `=ᶠ[l]` notation, allowing it to appear inside other notations. -/
+@[quot_precheck Filter.eventuallyEqStx] meta def precheckEventuallyEq : Precheck
+  | `($x =ᶠ[$l] $y) => do precheck x; precheck l; precheck y
+  | _ => throwUnsupportedSyntax
+
+open Lean.Elab Term.Quotation in
+/-- `quot_precheck` for the `≤ᶠ[l]` notation, allowing it to appear inside other notations. -/
+@[quot_precheck Filter.eventuallyLEStx] meta def precheckEventuallyLE : Precheck
+  | `($x ≤ᶠ[$l] $y) => do precheck x; precheck l; precheck y
+  | _ => throwUnsupportedSyntax
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Defs.lean:386]: Could you explain to me what this does? Sorry :sweat_smile:

File: Mathlib/Topology/NhdsWithin.lean [hunk 34]
```diff
@@ -115,23 +115,29 @@ theorem mem_nhdsWithin_iff_eventually {s t : Set α} {x : α} :
...
-    t ∈ 𝓝[s] x ↔ s =ᶠ[𝓝 x] (s ∩ t : Set α) := by
-  simp_rw [mem_nhdsWithin_iff_eventually, eventuallyEq_set, mem_inter_iff, iff_self_and]
+theorem mem_nhdsWithin_iff_eventuallyEqSet {s t : Set α} {x : α} :
+    t ∈ 𝓝[s] x ↔ s =ᶠ[𝓝 x] s ∩ t := by
+  simp_rw [mem_nhdsWithin_iff_eventually, eventuallyEqSet_iff, mem_inter_iff, iff_self_and]
+
+@[deprecated (since := "2026-08-14")]
+alias mem_nhdsWithin_iff_eventuallyEq := mem_nhdsWithin_iff_eventuallyEqSet
 
 set_option backward.isDefEq.respectTransparency false in
```
Comment (ADedecker) [inline Mathlib/Topology/NhdsWithin.lean]:
```suggestion
```

File: Mathlib/Topology/NhdsWithin.lean [hunk 35]
```diff
@@ -115,23 +115,29 @@ theorem mem_nhdsWithin_iff_eventually {s t : Set α} {x : α} :
...
 lemma mem_nhdsWithin_inter_self {s t : Set α} {x : α} : t ∈ 𝓝[s ∩ t] x :=
-  mem_nhdsWithin_iff_eventuallyEq.mpr <| by simp [inter_assoc]
+  mem_nhdsWithin_iff_eventuallyEqSet.mpr <| by simp [inter_assoc]
 
 set_option backward.isDefEq.respectTransparency false in
```
Comment (ADedecker) [inline Mathlib/Topology/NhdsWithin.lean]:
```suggestion
```

File: Mathlib/Order/Filter/Basic.lean [hunk 36]
```diff
@@ -1278,10 +1367,14 @@ theorem Set.EqOn.eventuallyEq_of_mem {α β} {s : Set α} {l : Filter α} {f g :
...
 
-theorem LE.le.eventuallyLE {α} {l : Filter α} {s t : Set α} (h : s ⊆ t) : s ≤ᶠ[l] t :=
-  Filter.Eventually.of_forall h
+lemma LE.le.eventuallySubset {α} {l : Filter α} {s t : Set α} (h : s ⊆ t) : s ≤ᶠ[l] t :=
+  .of_forall h
+
+theorem LE.le.eventuallyLE {α} {l : Filter α} {s t : Set α} (h : s ≤ t) : s ≤ᶠ[l] t :=
+  .of_forall h
 
-@[deprecated (since := "2026-03-16")] alias HasSubset.Subset.eventuallyLE := LE.le.eventuallyLE
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Basic.lean:1284]: Could you restore this? It has not been six months yet...

File: Mathlib/Order/Filter/Defs.lean [hunk 37]
```diff
@@ -297,16 +297,118 @@ notation3 "∃ᶠ "(...)" in "f", "r:(scoped p => Filter.Frequently p f) => r
...
+
+This is `Filter.EventuallyLE l x y` if `x` is a function and `Filter.EventuallySubset l x y` if `x`
+is a set. -/
+syntax:50 (name := eventuallyLEStx) term:51 " ≤ᶠ[" term "] " term:50 : term
+
+open Lean Elab Term Meta in
+/-- Elaborate the left-hand side `x` of an `x =ᶠ[l] y` / `x ≤ᶠ[l] y` on its own, dispatching on
+whether its type is a `Set`. If the type is not yet known (e.g. `x` is the `_` of a `calc` step),
+consult the right-hand side `y` instead. Returns the elaborated sides turned back into syntax
+together with whether they should be interpreted as sets. -/
```
Comment (ADedecker) [inline Mathlib/Order/Filter/Defs.lean]: Is it worth emphasizing the fact that `y` may not have been elaborated at all and just be returned as-is?

**Review by ADedecker — APPROVED** [review]
Sorry for all the nitpicks I found... Apart from these I have a few last technical questions, and then this should be good to go.

File: Mathlib/Order/Filter/Basic.lean (hunk 20 above)
Comment (ADedecker) [reply Mathlib/Order/Filter/Basic.lean:938]: Ah, the Lean diff says you did already, I just didn't see them.

File: Mathlib/Order/Filter/Defs.lean (hunk 32 above)
Comment (YaelDillies) [reply Mathlib/Order/Filter/Defs.lean]: Good point about the redundant check. Regarding the name, no, your concern is unfounded. I don't remember the technical terms, but "double quotes" are resolved at elaboration-time (when the elaborator itself is being elaborated), while "single quotes" are resolved at run-time (when the elaborator is called). Here we use double quotes so we are fine.

File: Mathlib/Order/Filter/Basic.lean (hunk 28 above)
Comment (YaelDillies) [reply Mathlib/Order/Filter/Basic.lean]: Pre-existing, but you are right

File: Mathlib/Order/Filter/Defs.lean (hunk 33 above)
Comment (YaelDillies) [reply Mathlib/Order/Filter/Defs.lean:386]: There isn't much more to it than what the docstring says: If you don't write a quotation prechecker, your notation can't be safely used inside other notations, because it might be that the internal notation will fail to elaborate when the external is being elaborated. It's a safety mechanism (and there are ways to disable it, but writing a quotation prechecker is the better way) akin to type checking, except that it happens before elaboration.

File: Mathlib/MeasureTheory/Covering/LiminfLimsup.lean [hunk 38]
```diff
@@ -226,15 +225,13 @@ theorem blimsup_cthickening_mul_ae_eq (p : ℕ → Prop) (s : ℕ → Set α) {M
...
     (hr : Tendsto r atTop (𝓝 0)) (hr' : ∀ᶠ i in atTop, p i → 0 < r i) :
     (blimsup (fun i => cthickening (r i) (s i)) atTop p : Set α) =ᵐ[μ]
       (blimsup (fun i => thickening (r i) (s i)) atTop p : Set α) := by
-  refine eventuallyLE_antisymm_iff.mpr ⟨?_, LE.le.eventuallyLE ?_⟩
-  · rw [eventuallyLE_congr (blimsup_cthickening_mul_ae_eq μ p s (one_half_pos (α := ℝ)) r hr).symm
-      EventuallyEq.rfl]
-    apply LE.le.eventuallyLE
+  refine eventuallySubset_antisymm_iff.mpr ⟨?_, .of_le ?_⟩
+  · refine (blimsup_cthickening_mul_ae_eq μ p s (one_half_pos (α := ℝ)) r hr).superset.trans
+      (.of_le ?_)
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Covering/LiminfLimsup.lean]:
```suggestion
  refine eventuallySubset_antisymm_iff.mpr ⟨?_, .of_subset ?_⟩
  · refine (blimsup_cthickening_mul_ae_eq μ p s (one_half_pos (α := ℝ)) r hr).superset.trans
      (.of_subset ?_)
```

File: Mathlib/Topology/Baire/BaireMeasurable.lean [hunk 39]
```diff
@@ -36,7 +36,32 @@ open Topology
...
+
+/-- Delaborator printing `Filter.EventuallyEq (residual _) f g` as `f =ᵇ g`. -/
+@[app_delab Filter.EventuallyEq]
+meta def delabResidualEventuallyEq : Delab := whenPPOption Lean.getPPNotation do
+  let e ← SubExpr.getExpr
+  guard <| e.isAppOfArity ``Filter.EventuallyEq 5
+  guard <| (e.getArg! 2).isAppOfArity ``residual 2
+  let f ← SubExpr.withNaryArg 3 delab
+  let g ← SubExpr.withNaryArg 4 delab
+  `($f =ᵇ $g)
```
Comment (ADedecker) [inline Mathlib/Topology/Baire/BaireMeasurable.lean]:
```suggestion
meta def delabResidualEventuallyEq : Delab := 
  whenNotPPOption getPPExplicit <| whenPPOption Lean.getPPNotation do
    let e ← SubExpr.getExpr
    guard <| e.isAppOfArity ``Filter.EventuallyEq 5
    guard <| (e.getArg! 2).isAppOfArity ``residual 2
    let f ← SubExpr.withNaryArg 3 delab
    let g ← SubExpr.withNaryArg 4 delab
    `($f =ᵇ $g)
```

File: Mathlib/Topology/Baire/BaireMeasurable.lean [hunk 40]
```diff
@@ -36,7 +36,32 @@ open Topology
...
+
+/-- Delaborator printing `Filter.EventuallyEqSet (residual _) s t` as `s =ᵇ t`. -/
+@[app_delab Filter.EventuallyEqSet]
+meta def delabResidualEventuallyEqSet : Delab := whenPPOption Lean.getPPNotation do
+  let e ← SubExpr.getExpr
+  guard <| e.isAppOfArity ``Filter.EventuallyEqSet 4
+  guard <| (e.getArg! 1).isAppOfArity ``residual 2
+  let s ← SubExpr.withNaryArg 2 delab
+  let t ← SubExpr.withNaryArg 3 delab
+  `($s =ᵇ $t)
```
Comment (ADedecker) [inline Mathlib/Topology/Baire/BaireMeasurable.lean]:
```suggestion
meta def delabResidualEventuallyEqSet : Delab := 
  whenNotPPOption getPPExplicit <| whenPPOption Lean.getPPNotation do
    let e ← SubExpr.getExpr
    guard <| e.isAppOfArity ``Filter.EventuallyEqSet 4
    guard <| (e.getArg! 1).isAppOfArity ``residual 2
    let s ← SubExpr.withNaryArg 2 delab
    let t ← SubExpr.withNaryArg 3 delab
    `($s =ᵇ $t)
```

**Review by ADedecker — APPROVED** [review]
Thanks a ton!

bors d+

**Comment by YaelDillies** [comment]
Thank you Anatole for taking this review on!

bors merge
